2108-08-10 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: critical AS
   24 Hour Events:
   - Pt underwent pre-AVR cath that demonstrated clean arteries, critical
   AS.
   - Pre-op studies completed.
   - Cleared for surgery on [**8-14**].
   - Plan to discharge on [**8-10**] at noon with plans to return on [**8-14**] at
   6AM.
   - Stable, no complaints.
   Allergies:
   Atorvastatin
   myalgias;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-8-10**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 72 (72 - 98) bpm
   BP: 135/73(89) {106/32(60) - 150/99(107)} mmHg
   RR: 16 (13 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64 kg (admission): 65.7 kg
   Height: 66 Inch
                  Total In:
                                                                  1,120 mL
                  PO:
                  TF:
   IVF:
                                                                  1,120 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    500 mL
   Urine:
                                                                  2,000 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -880 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.45/42/128/26/5
   Physical Examination
   GENERAL: pleasant male in NAD, speaking in full sentences. Oriented x3.
   Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP to just below angle of mandible.
   CARDIAC: RRR, harsh grade III systolic murmur heard best at RUS border
   radiating to the carotids. No thrills, lifts.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Minimal crackles at bases.
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: 1+ edema bilaterally
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 1+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 1+
   Labs / Radiology
   199 K/uL
   11.3 g/dL
   100 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.2 mEq/L
   20 mg/dL
   107 mEq/L
   139 mEq/L
   34.1 %
   9.0 K/uL
        [image002.jpg]
                             [**2108-8-8**]  09:00 PM
                             [**2108-8-9**]  06:00 AM
                             [**2108-8-9**]  09:17 AM
                             [**2108-8-9**]  02:39 PM
                             [**2108-8-10**]  05:04 AM
   WBC
   10.6
   11.2
   9.0
   Hct
   31.9
   34.4
   34.1
   Plt
   [**Telephone/Fax (3) 7821**]
   Cr
   1.1
   0.9
   0.8
   TCO2
   30
   Glucose
   110
   100
   Other labs: ALT / AST:42/28, Alk Phos / T Bili:67/0.4, Amylase /
   Lipase:130/52, D-dimer:1411 ng/mL, Lactic Acid:2.0 mmol/L, Albumin:3.8
   g/dL, LDH:284 IU/L, Ca++:9.0 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 PULMONARY EDEMA
 CRITICAL AORTIC STENOSIS
   This is an 80 year old male who presented with acute onset of shortness
   of breath consistent with CHF exacerbation, now s/p cardiac cath
   showing critical AS (peak velocity 5.2 m/s, peak gradient 106 mmHg, [**Location (un) **]
   .8 cm2) and clean coronaries.
   .
   # Shortness of breath:  Likely secondary to congestive heart failure as
   patient has signs of fluid overload on imaging and BNP=7739.  Patient
   required CPAP to maintain sats in ED, but was quickly weaned to room
   air after diuresis.  Differential includes flash pulmonary edema, PE,
   and pneumonia.  PE has been ruled out after negative CTA.  Pneumonia
   seems less likely given the acuity of onset of shortness of breath
   without pro-dromal symptoms.  Although he does have an unexplained WBC
   count of 17.2 and an ill defined lingular opacity on CT, he does not
   look clinically infected.  Regarding the cause, he does have severe
   aortic stenosis (albeit with a normal EF and adequate pulse pressure),
   so a small insult could throw him into failure.  Ischemia is on the
   differential, but no CP or EKG changes.
   - Blood cultures and urine culture NGTD
   - chest CTA without PE
   - diuresed well and has been oxygenating well on RA
   - Pt received one dose of vanco IV in the ED which was not continued
   after arrival to the CCU as patient does not look clinically infected.
   .
   # Aortic Stenosis: Patient has critical AS by Echo in [**6-28**] and
   confirmed with cardiac cath yesterday, but has never had syncope,
   angina, or CHF in the past.  CT surgery to begin work-up for potential
   AVR.
   - Planned procedure on Tuesday
   .
   # CORONARIES:  He has no history of CAD or prior MI.
   -CEs negative on admission
   - cath showing no flow limiting CAD, R dominant system, LMCA without
   obstructive disease LAD with mild luminal irregularities with a 20% mid
   vessel stenosis, LCX and RCA with mild luminal irregularities
   -If there are no signs of CAD on cath, patient would most likely prefer
   to have percutaneous AVR.
   .
   # Hypertension:  Patient is on amlodipine 5mg/benazepril 20mg daily as
   well as triamterene 37.5mg/HCTZ 25mg daily at home.  His blood pressure
   has been running in the 90s to 110s since admission secondary to the
   Lasix and all blood pressure meds will be held.
   - can restart home regimen
   .
   # Hyperlipidemia: Continue home dose of simvastatin 40mg.
   .
   # Spinal stenosis: Continue home pain regimen of celebrex 200mg [**Hospital1 **].
   .
   FEN: Heart healthy/low sodium diet
   .
   ACCESS: PIV
   .
   PROPHYLAXIS:
   -DVT ppx with heparin SC
   -Bowel regimen with colace/senna
   .
   CODE: Full code
   .
   COMM: with patient, [**Name (NI) 203**] (wife)->[**Telephone/Fax (1) 7800**] (home), [**Telephone/Fax (1) 7801**]
   (cell); [**Doctor Last Name **]-> [**Telephone/Fax (1) 7802**]
   .
   DISPO: discharge today, with plan to return for AVR
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2108-8-9**] 03:00 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: discharge today
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add,
   discharge home today, start beta blocker
   Total time spent on patient care: 50 minutes.